US06130326
Dimethyl 1,2,3-triazole-4,5-dicarboxylate (30)
To a stirred suspension of sodium azide (5.03 g, 77.39 mmol) in DMF (120 mL) was added dropwise at 0° C. over 30 min, a solution of dimethyl acetylene-dicarboxylate (10.0 g, 70.36 mmol) in DMF (100 mL). After 30 min the solvent was removed in vacuo at 30° C. to leave a light purple-brown solid. The solid was washed twice with ether and taken up in water (100 mL). The aqueous solution was acidified with conc. HCl to pH 2. The aqueous layer was first extracted with ether (100 mL) and then with chloroform (100 mL). The combined organic layers were evaporated to give a light red colored solid: 128-130° C. The solid was washed with hot hexane and crystallized from benzene: Yield 11.0 g (85%); 1H NMR (CDCl3) δ 4.00 (s, 6H), 11.87 (br s, 1H, NH).

reactant | sodium azide | 77.39 mmol, 5.03 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethyl acetylene-dicarboxylate | 70.36 mmol, 10.0 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Dimethyl 1,2,3-triazole-4,5-dicarboxylate | N1N=NC(=C1C(=O)OC)C(=O)OC | C6H7N3O4
